US09212168B2
To a solution of 4-bromo-2-fluoro-5-trifluoromethoxy-phenylamine (500 mg, 2 mmol) dissolved in DCM (1 mL) was slowly added a solution of 2-fluoropyridine-5-carbonyl chloride (290 mg, 1.8 mmol) in DCM (1 mL). A few drops of DMA were added and the reaction mixture was concentrated to form N-(4-bromo-2-fluoro-5-trifluoromethoxy-phenyl)-6-fluoro-nicotinamide as a purple solid.

reactant | 4-bromo-2-fluoro-5-trifluoromethoxy-phenylamine | 2 mmol, 500 mg | BrC1=CC(=C(C=C1OC(F)(F)F)N)F | C7H4BrF4NO
reactant | 2-fluoropyridine-5-carbonyl chloride | 1.8 mmol, 290 mg | FC1=NC=C(C=C1)C(=O)Cl | C6H3ClFNO
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | DMA | A few drops | CC(=O)N(C)C | C4H9NO
product | N-(4-bromo-2-fluoro-5-trifluoromethoxy-phenyl)-6-fluoro-nicotinamide | BrC1=CC(=C(C=C1OC(F)(F)F)NC(C1=CN=C(C=C1)F)=O)F | C13H6BrF5N2O2
